US09387200B2
(R)-2-{[3-(4-Chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-propionic acid
A mixture of 3-(4-Chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester (50 mg, 0.149 mmol), D-alanine (400 mg, 4.49 mmol) and NaOMe (7.45 mL, 3.72 mmol, 0.5 M solution in MeOH) was refluxed for 48 h before it was concentrated in vacuo. The residue was dissolved in water (50 mL) and washed with CH2Cl2 (2×20 mL). The aqueous solution was then acidified by addition of 1N HCl solution. The resulting precipitate was sucked off, washed with water, and dried in vacuo to give the title compound as a white solid (39.2 mg): MS (m/z) 376.0 (M−1).

reactant | 3-(4-Chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 0.149 mmol, 50 mg | C(C)OC(=O)C=1C(=C2C(=CN1)SN=C2C2=CC=C(C=C2)Cl)O | C15H11ClN2O3S
reactant | D-alanine | 4.49 mmol, 400 mg | N[C@H](C)C(=O)O | C3H7NO2
reactant | NaOMe | 3.72 mmol, 0.5 M, 7.45 mL | C[O-].[Na+]
product | (R)-2-{[3-(4-Chloro-phenyl)-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carbonyl]-amino}-propionic acid | 39.2 mg | ClC1=CC=C(C=C1)C1=NSC2=CN=C(C(=C21)O)C(=O)N[C@@H](C(=O)O)C | C16H12ClN3O4S
